US07163937B2
A solution of 1-[(1R,2R,4S)-4-isopropylamino-2-(propane-2-sulfonylmethyl)cyclohexyl]-4-(3-trifluoromethyl-phenyl)-5,6-dihydro-1H-pyridin-2-one (43 mg) in methanol (1 mL) was treated with acetaldehyde (0.025 mL) and stirred at room temperature. After 35 min, sodium cyanoborohydride (8 mg) was added, and the mixture was stirred at room temperature for 22.5 h. The mixture was concentrated and partitioned between water and ethyl acetate. The aqueous phase was extracted with additional ethyl acetate, and the combined organic phases were dried over sodium sulfate and concentrated under vacuum to provide 1-((1S,2R,4R)-4-(isopropyl(ethyl)amino)-2-(isopropylsulfonylmethyl)cyclohexyl)-4-(3-(trifluoromethyl)phenyl)-5,6-dihydropyridin-2(1H)-one (41 mg) as a white glassy solid. MS found: (M+H)+=529.39.

reactant | 1-[(1R,2R,4S)-4-isopropylamino-2-(propane-2-sulfonylmethyl)cyclohexyl]-4-(3-trifluoromethyl-phenyl)-5,6-dihydro-1H-pyridin-2-one | 43 mg | C(C)(C)N[C@@H]1C[C@H]([C@@H](CC1)N1C(C=C(CC1)C1=CC(=CC=C1)C(F)(F)F)=O)CS(=O)(=O)C(C)C | C25H35F3N2O3S
reactant | acetaldehyde | 0.025 mL | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 8 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
product | 1-((1S,2R,4R)-4-(isopropyl(ethyl)amino)-2-(isopropylsulfonylmethyl)cyclohexyl)-4-(3-(trifluoromethyl)phenyl)-5,6-dihydropyridin-2(1H)-one | 41 mg | C(C)(C)N([C@H]1C[C@H]([C@H](CC1)N1C(C=C(CC1)C1=CC(=CC=C1)C(F)(F)F)=O)CS(=O)(=O)C(C)C)CC | C27H39F3N2O3S
